US07589206B2
(d) 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid
To a solution of 4-bromo-1-(tert-butyl-dimethyl-silanyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine (500 mg) in dry tetrahydrofuran (25 ml) at −78° C. under an atmosphere of nitrogen was added tert-butyllithium (1.7M in pentane, 1.88 ml). After addition, the reaction mixture was stirred for 15 minutes at −78° C. then poured onto crushed pellets of carbon dioxide. The mixture was allowed to warm to room temperature and then evaporated. The residue was dissolved in water and the aqueous washed twice with diethyl ether. The aqueous was then acidified with 2M hydrochloric acid and extracted twice with ethyl acetate. The organic layer was dried (MgSO4) and evaporated to give the title compound as a yellow solid (120 mg).

reactant | 4-bromo-1-(tert-butyl-dimethyl-silanyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine | 500 mg | BrC1=C2C(=C(N=C1)Cl)N(C=C2)[Si](C)(C)C(C)(C)C | C13H18BrClN2Si
reactant | tert-butyllithium | 1.7M, 1.88 ml | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | 120 mg | ClC1=NC=C(C2=C1NC=C2)C(=O)O | C8H5ClN2O2
